US05843957
Preparation of N-[1-butyl-4-{3-(3-aminopropoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-butyl-4-{3-(3-phthalimidopropoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (157 mg, 0.22 mmol) in ethanol (10 ml) was added hydrazine monohydrate (100 mg, 2 mmol), and the mixture was stirred at room temperature for 3 hours. The precipitates were removed by filtration, and the filtrate was concentrated under reduced pressure. To the residue was added methylene chloride, and the insoluble materials were removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (10% methanol in chloroform) to give the title compound (58 mg, 0.10 mmol).

reactant | N-[1-butyl-4-{3-(3-phthalimidopropoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.22 mmol, 157 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCCN1C(C=2C(C1=O)=CC=CC2)=O)NC(=O)NC2=C(C=CC=C2C(C)C)C(C)C)=O | C42H45N5O5
reactant | hydrazine monohydrate | 2 mmol, 100 mg | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[1-butyl-4-{3-(3-aminopropoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.10 mmol, 58 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCCN)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C34H43N5O3
